US05888423
7.8 g of 4-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-2-fluorobenzoic acid are added to a suspension of 4.5 g of lithium aluminium hydride in 150 ml of dry ether and the mixture is stirred under reflux for 23 hrs. The suspension is cooled to 0° C., treated cautiously with 40 ml of water and then with 150 ml of 3N sulfuric acid, extracted with ether and the organic phase is dried over sodium sulfate, filtered and the filtrate is evaporated. Chromatography of the residue on silica gel with methylene chloride/acetone (95:5) gives 4-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-2-fluorobenzyl alcohol.

reactant | 4-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-2-fluorobenzoic acid | 7.8 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=O)O)C=C1)F | C22H31FO2
reactant | lithium aluminium hydride | 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 40 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-2-fluorobenzyl alcohol | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC(=C(CO)C=C1)F | C22H33FO
